US08378104B2
Step A: 7-bromo-1,2-benzothiazole-6-carbonitrile
A suspension of 7-bromo-6-iodo-1,2-benzothiazole (43.2 mg, 0.127 mmol), zinc cyanide (13.6 mg, 0.116 mmol), and Pd(PPh3)4 (15.9 mg, 0.0138 mmol) in DMF (1.6 mL) was heated to 80° C. in a microwave for 15 min. The reaction mixture was concentrated in vacuo. Purification of the residue by ISCO chromatography (20 to 100% dichloromethane:heptane) to afford 16.4 mg (50%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 9.25 (s, 1H), 7.77 (d, J=7.58 Hz, 1H), 7.69 (d, J=8.08 Hz, 1H); MS (ESI): 237.15, 239.14 [M−H]+; HPLC tR=0.90 min (HPLC: nonpolar—2 min).

reactant | 7-bromo-6-iodo-1,2-benzothiazole | 0.127 mmol, 43.2 mg | BrC1=C(C=CC=2C=NSC21)I | C7H3BrINS
reactant | DMF | 1.6 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.116 mmol, 13.6 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.0138 mmol, 15.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-bromo-1,2-benzothiazole-6-carbonitrile | 16.4 mg, 50% | BrC1=C(C=CC=2C=NSC21)C#N | C8H3BrN2S
